US04110533
A solution of 148 mg (0.2 mmol) of a mixture consisting of 2-[4-(p-toluenesulphonylthio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-(N-methylcyclohexylamino)-crotonic acid p-nitrobenzyl ester and the corresponding isocrotonic acid ester, in 3 ml of dry acetonitrile, is heated under nitrogen for about 4 hours at 80° C until no further starting material can be detected by thin layer chromatography (silica gel: toluene/ethyl acetate, 1:1). The heating bath is removed, 38 mg (0.2 mmol) of p-toluenesulphonic acid and about 0.2 ml of water are added to the reaction mixture and the mixture is stirred for a further 2 hours at room temperature. The reaction mixture is diluted with benzene, washed with water, dried over sodium sulphate and evaporated in vacuo. The residue is triturated at 0° C with diethyl ether and gives pale yellow 7β-phenoxyacetamido-3-hydroxy-3-cephem-4-carboxylic acid p-nitrobenzyl ester. IR spectrum (methylene chloride): characteristic bands at 2.95; 3.3; 5.6; 5.75 (sh); 5.9; 5.95 (sh) 6.55, 7.45, 8.15 and 8.3μ; NMR spectrum (deuterochloroform); δ in ppm: 3.4 (zH, q, J = 17 Hz); 4.57 (2H, s); 5.06 (1H, d; J = 5 Hz); 5.35 (2H, q, J = 14 Hz); 5.7 (1H dd, J = 5, 10 Hz); 6.8-8.4 (10H, c) and 11.4 (1H, br.s.).

reactant | 2-[4-(p-toluenesulphonylthio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-(N-methylcyclohexylamino)-crotonic acid p-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(\C(=C(\C)/N(C)C2CCCCC2)\N2C(C(C2SS(=O)(=O)C2=CC=C(C=C2)C)NC(COC2=CC=CC=C2)=O)=O)=O)C=C1 | C36H40N4O9S2
reactant | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
reactant | p-toluenesulphonic acid | 0.2 mmol, 38 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | about 0.2 ml | O | H2O
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 7β-phenoxyacetamido-3-hydroxy-3-cephem-4-carboxylic acid p-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(=O)C2=C(CS[C@H]3N2C([C@H]3NC(COC3=CC=CC=C3)=O)=O)O)C=C1 | C22H19N3O8S
